Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
fluocinonide
 
Attending: ___.
 
Chief Complaint:
Hepatic cyst
 
Major Surgical or Invasive Procedure:
___ Laparoscopic unroofing of hepatic cyst x2.

 
History of Present Illness:
Per Dr. ___ preop note as follows:
___ female with vagueabdominal pain, was found to have 
liver cysts.  She had desired to have unroofed, given the fact 
that she spends a
fair amount of time in  ___, and did not want to run into a 
problem while away from her primary ___.  She 
presents today for elective laparoscopic cyst
unroofing.

 
Past Medical History:
PMH: right breast cancer in ___, status post modified radical 
mastectomy and sentinel  
 lymph node. She subsequently was treated with tamoxifen. Her  
 BRCA testing was negative. She has a history of hypertension,  
 Raynaud's disease, colonic adenoma, esophageal reflux,  
 depression, overweight, hyperlipidemia, bilateral cataracts and 
 
 narrow angle glaucoma.  
 PSH: total abdominal  
 hysterectomy, right modified radical mastectomy with subsequent 
 
 implant in ___, breast implant replacement in ___, left 
breast  
 biopsy which was benign, bilateral partial knee replacements in 
 
___ and compound fracture of the left humerus in ___.  

 
Social History:
___
Family History:
mother died of metastatic gastric cancer four months after 
diagnosis;
maternal grandfather died at ___ with lung cancer; paternal uncle
also had lung cancer, though worked in a ___.  A maternal
uncle had ___ lymphoma in his ___.  Maternal aunt died in
her ___ with metastatic gallbladder cancer.  Two maternal 
cousins
were diagnosed with breast cancer in their ___.  There is no
known liver disease in the family.

 
Pertinent Results:
___ 07:15PM BLOOD Hct-42.7
___ 11:05AM BLOOD WBC-11.6*# RBC-5.06 Hgb-13.4 Hct-41.8 
MCV-83 MCH-26.5 MCHC-32.1 RDW-14.5 RDWSD-43.1 Plt ___
___ 11:05AM BLOOD Glucose-100 UreaN-15 Creat-0.7 Na-139 
K-4.3 Cl-100 HCO3-25 AnGap-18
___ 11:05AM BLOOD ALT-26 AST-26 AlkPhos-74 TotBili-0.4
___ 11:05AM BLOOD Calcium-9.5 Phos-3.8 Mg-2.3
 
Brief Hospital Course:
On ___, she underwent laparoscopic unroofing of hepatic cyst 
x2. Surgeon was Dr. ___. Please refer to operative 
note for complete details. Postop, she did well with stable 
vital signs. Pain was well managed with oxycodone. Incision was 
intact without redness or drainage. Abdomen was non-distended. 

Diet was advanced and tolerated. She was passing flatus, but had 
not had a BM. Colace and Senna were give.  She was assisted out 
of bed and became independent with ambulation. She was 
discharged to home in stable condition. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Enalapril Maleate 2.5 mg PO BID 
4. Omeprazole 20 mg PO DAILY 
5. Venlafaxine 25 mg PO BID 
6. Vitamin D ___ UNIT PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. coenzyme Q10 dose uncertain  oral frequency uncertain 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*60 
Tablet Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  Atorvastatin 10 mg PO QPM  
7.  Enalapril Maleate 2.5 mg PO BID  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Venlafaxine 25 mg PO BID  
11.  Vitamin D ___ UNIT PO DAILY  
12. HELD- coenzyme Q10 dose uncertain  oral frequency uncertain  
This medication was held. Do not restart coenzyme Q10 until 
discuss resuming at follow up appointment

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hepatic cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever 101, 
chills, nausea, vomiting, diarrhea, constipation, inability to 
tolerate food, fluids or medications, yellowing of skin or eyes, 
increased abdominal pain, incisional redness, drainage or 
bleeding, dizziness or weakness, decreased urine output or dark, 
cloudy urine, swelling of abdomen or ankles, or any concerns

You may shower with soap and water, rinse, pat dry. Do 
not apply lotion or powder near the incision. You may leave the 
incision open to the air.

No driving if taking narcotic pain medication
Do not drink alcohol with narcotic pain medication

No straining or heavy lifting. Do not lift anything heavier than 
10 pounds. 
 
Followup Instructions:
___